US05736487
21(a) O-(Benzothiazol-2-ylmethyl)-3-methyl-4-nitrophenol
23.0 g of sodium hydride (as a 60% w/w dispersion in mineral oil) were added to a solution of 80.0 g of 3-methyl-4-nitrophenol in 700 ml of dimethylformamide cooled in an ice-water bath. The resulting mixture was stirred at the same temperature for 20 minutes, at the end of which time a solution of 95.9 g of 2-chloromethylbenzothiazole in 50 ml of dimethylformamide was added to the reaction mixture. The temperature of the resulting mixture was elevated to 80° C. and the mixture was then stirred for 2 hours. At the end of this time, the reaction mixture was poured into ice-water and the precipitated crystalline solid was washed with water. The crude crystalline solid thus obtained was recrystallised from toluene to give 98.8 g (yield 63%) of the title compound as a solid having a melting point of 145° to 147° C.

reactant | sodium hydride | 23.0 g | [H-].[Na+]
reactant | 3-methyl-4-nitrophenol | 80.0 g | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | 2-chloromethylbenzothiazole | 95.9 g | ClCC=1SC2=C(N1)C=CC=C2 | C8H6ClNS
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | O-(Benzothiazol-2-ylmethyl)-3-methyl-4-nitrophenol | 98.8 g, yield 63% | S1C(=NC2=C1C=CC=C2)COC2=CC(=C(C=C2)[N+](=O)[O-])C | C15H12N2O3S
